US05360809
N-(3-Nitro-2-pyridyl)-N-formyl-3-aminophenylboronic acid.
. A mixture of 2-chloro-3-nitropyridine (5.0 g, 32.2 mmol), 3-aminophenylboronic acid monohydrate (5.11 g, 32.2 mmol), sodium carbonate (13.7 g, 32.2 mmol), and DMF (100 ml) was stirred at 100° C. for 1 h. After cooling to room temperature, ethyl acetate (500 ml) was added and the solids were filtered off. The solution was transferred to a separatory funnel and washed with aqueous hydrochloric acid (3×200 ml, 1M). The organic phase was dried and the solvent removed. Yield 6.5 g, mp 242°-245° C.

reactant | 2-chloro-3-nitropyridine | 32.2 mmol, 5.0 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 3-aminophenylboronic acid monohydrate | 32.2 mmol, 5.11 g | O.NC=1C=C(C=CC1)B(O)O
reactant | sodium carbonate | 32.2 mmol, 13.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-Nitro-2-pyridyl)-N-formyl-3-aminophenylboronic acid | [N+](=O)([O-])C=1C(=NC=CC1)N(C=1C=C(C=CC1)B(O)O)C=O | C12H10BN3O5
